US08809538B2
methyl 4-methyl-2-(pyridin-2-yl)thiazole-5-carboxylate
A mixture of pyridine-2-carbothioamide (5.00 g) and ethanol (15 mL) was heated at 50° C. Methyl 2-chloro-3-oxobutanoate (4.41 mL) was slowly added to this solution over 10 minutes. The solution was heated at 70° C. for 18 hours. The solution was cooled to room temperature and 50% ethanol (20 mL) was added. The solution was cooled to 0° C. and stirred for 1 hour. The solution was filtered and dried over vacuum to obtain the title compound (4.90 g) with the following physical data.

reactant | pyridine-2-carbothioamide | 5.00 g | N1=C(C=CC=C1)C(N)=S | C6H6N2S
reactant | Methyl 2-chloro-3-oxobutanoate | 4.41 mL | ClC(C(=O)OC)C(C)=O | C5H7ClO3
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | methyl 4-methyl-2-(pyridin-2-yl)thiazole-5-carboxylate | 4.90 g | CC=1N=C(SC1C(=O)OC)C1=NC=CC=C1 | C11H10N2O2S
